US04287341
A. 2-(4-Benzylpiperidin-1-yl)-4-amino-7,8-dimethoxyquinazoline hydrochloride
4-Amino-2-chloro-7,8-dimethoxyquinazoline (2.40 g., 10 mmole), 4-benzylpiperidine (1.93 g., 11 mmole) and 50 ml. of isoamyl alcohol were heated at reflux under a nitrogen atmosphere for two hours and cooled to room temperature. Diethyl ether (50 ml.) was added and the mixture allowed to stand in the refrigerator for two days. The precipitated solid was collected by filtration and recrystallized from ethanol/diethyl ether to afford 2.50 g. (60%) of the title compound, M.P. 216°-217° C.

reactant | 4-Amino-2-chloro-7,8-dimethoxyquinazoline | 10 mmole, 2.40 g | NC1=NC(=NC2=C(C(=CC=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-benzylpiperidine | 11 mmole, 1.93 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | isoamyl alcohol | C(CC(C)C)O | C5H12O
solvent | Diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-(4-Benzylpiperidin-1-yl)-4-amino-7,8-dimethoxyquinazoline hydrochloride | 60% | Cl.C(C1=CC=CC=C1)C1CCN(CC1)C1=NC2=C(C(=CC=C2C(=N1)N)OC)OC | InChI=1S/C22H26N4O2.ClH/c1-27-18-9-8-17-19(20(18)28-2)24-22(25-21(17)23)26-12-10-16(11-13-26)14-15-6-4-3-5-7-15;/h3-9,16H,10-14H2,1-2H3,(H2,23,24,25);1H
